US06436966B1
[4-(4-Methoxyphenyl)-5-(3-pyridyl)-1,3-thiazol-2-yl]amine Hydrochloride
[4-(4-Methoxyphenyl)-5-(3-pyridyl)-I,3-thiazol-2-yl]amine (200 mg) was dissolved in 1% methanol solution of hydrogen chloride (3.2 mL), and the solvent was evaporated. The crude crystalline was recrystallized from methanol-ethyl acetate to give the title compound (180 mg, yield 80%).

reactant | [4-(4-Methoxyphenyl)-5-(3-pyridyl)-I,3-thiazol-2-yl]amine | 200 mg | COC1=CC=C(C=C1)C=1N=C(SC1C=1C=NC=CC1)N | C15H13N3OS
reactant | hydrogen chloride | 3.2 mL | Cl | ClH
solvent | methanol | CO | CH4O
product | [4-(4-Methoxyphenyl)-5-(3-pyridyl)-1,3-thiazol-2-yl]amine Hydrochloride | 180 mg, yield 80% | Cl.COC1=CC=C(C=C1)C=1N=C(SC1C=1C=NC=CC1)N | InChI=1S/C15H13N3OS.ClH/c1-19-12-6-4-10(5-7-12)13-14(20-15(16)18-13)11-3-2-8-17-9-11;/h2-9H,1H3,(H2,16,18);1H
